US08138333B2
1-(Phenylsulfonyl)-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indole
NaH (60% in mineral oil, 66 mg, 0.4 mmol) was added to a solution of tert-butyl 1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate, Intermediate 12 (51 mg, 0.2 mmol) in 800 of dry DMF). The reaction mixture was shaken at room temperature for 10 minutes and phenylsulfonyl chloride (66.2 mg, 0.4 mmol, in 600 uL of dry DMF) was added. The reaction mixture was shaken at room temperature for 10-20 minutes. The reaction was quenched by adding 4 mL of mixture a mixture of methanol and acetic acid (1:1). Boc-deprotection was carried out by adding 4 mL of solution of TFA/DCM (1:1). 2M NH3 in MeOH was added to the crude reaction (2×10 mL) and the solvent was removed under vacuum. The crude product was purified by preparative HPLC using System B, 100 mM NH4HCO3/MeCN (10-50% MeCN). 50 mg of the pure product was isolated as an off-white solid. MS m/z 313 [M+H]+.

reactant | NaH | 0.4 mmol, 66 mg | [H-].[Na+]
reactant | tert-butyl 1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate | N1C=C2C=3C(=CC=CC13)CN(CC2)C(=O)OC(C)(C)C | C16H20N2O2
reactant | phenylsulfonyl chloride | 0.4 mmol, 600 uL, 66.2 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(Phenylsulfonyl)-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indole | 50 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=C2C=3C(=CC=CC13)CNCC2 | C17H16N2O2S
